US07262212B2
Benzyl N-(2-methyl-2-propenyl)carbamate (3.90 g, 19.0 mmol) prepared in Reference Example 173 was dissolved in methylene chloride (80 ml), to which m-chloroperbenzoic acid (5.15 g, 20.9 mmol) was added, and the mixture was stirred at room temperature overnight. Sodium thiosulfate aqueous solution and saturated sodium hydrogencarbonate aqueous solution were added to the reaction mixture, which was stirred for a while. The organic layer was separated, washed with saturated sodium hydrogencarbonate aqueous solution, dried over sodium sulfate, and then filtered. The filtrate was concentrated under reduced pressure to afford benzyl(2-methyl-2-oxiranylmethyl)carbamate (4.31 g, quantitative) as a colorless oil.

reactant | Benzyl N-(2-methyl-2-propenyl)carbamate | 19.0 mmol, 3.90 g | CC(CNC(OCC1=CC=CC=C1)=O)=C | C12H15NO2
reactant | m-chloroperbenzoic acid | 20.9 mmol, 5.15 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | benzyl(2-methyl-2-oxiranylmethyl)carbamate | 4.31 g | C(C1=CC=CC=C1)OC(NCC1(OC1)C)=O | C12H15NO3
